US06114532
g. 4-[(5-(2-ethoxycarbonyl-ethyl-benzimidazol-1-yl)methyl-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile
Prepared analogously to Example 24f from ethyl 3-[1-(3-amino-4-methylamino-benzyl)-1H-benzimidazol-2-yl]-propionate, 4-cyanophenylacetic acid and N,N'-carbonyldiimidazole in tetrahydrofuran, glacial acetic acid.

reactant | ethyl 3-[1-(3-amino-4-methylamino-benzyl)-1H-benzimidazol-2-yl]-propionate | NC=1C=C(CN2C(=NC3=C2C=CC=C3)CCC(=O)OCC)C=CC1NC | C20H24N4O2
reactant | 4-cyanophenylacetic acid | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[(5-(2-ethoxycarbonyl-ethyl-benzimidazol-1-yl)methyl-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile | C(C)OC(=O)CCC1=NC2=C(N1CC1=CC3=C(N(C(=N3)CC3=CC=C(C#N)C=C3)C)C=C1)C=CC=C2 | C29H27N5O2
